US07964643B2
Acetic acid 4-(biphenyl-4-sulfonylamino)-butyl ester (ABD-192)
Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (1 g) was dissolved in acetic anhydride (25 mL). Pyridine (5 mL) was added and the mixture stirred for 3 hours at 50° C. The mixture was poured into water (200 mL), extracted with ethyl acetate (100 mL), dried (Na2SO4) and evaporated to give the title compound as an amorphous solid. δC (CDCl3, 62.9 MHz): 21.0, 25.7, 26.3, 42.8, 63.8, 127.3, 127.6, 127.8, 128.0, 129.1, 138.4, 139.3, 145.6 and 171.2.

reactant | Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | 1 g | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H19NO3S
reactant | Pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 200 mL | O | H2O
solvent | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Acetic acid 4-(biphenyl-4-sulfonylamino)-butyl ester | C1(=CC=C(C=C1)S(=O)(=O)NCCCCOC(C)=O)C1=CC=CC=C1 | C18H21NO4S
